US07235572B2
A 1.6 M solution of BuLi in pentane (30.7 ml, 49.2 mmol) was added to a solution of 5-(tert-butyl-dimethyl-silanyloxy)-1H-indole (9.36 g, 37.8 mmol) in THF (190 ml) at −78° C. within 20 min under an argon atmosphere. The reaction mixture was stirred for 20 min at −78° C. tert-Butyldimethylsilyl chloride (7.64 g, 49.2 mmol) was added and the reaction mixture was stirred for 10 min at −78° C. and for 1 h at RT. The mixture was chilled to −78° C., N-bromosuccinimide (7.64 g, 41.6 mmol) was added and the solution was stirred for 1 h at −78° C. and for 1 h at RT. Diethyl ether was added and the mixture was washed with saturated aqueous NaHCO3 solution and water. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The crude product was purified by column chromatography (silica gel, CH2Cl2/heptane 1:19) to give 12.87 g (29.2 mmol, 77%) 3-bromo-1-(tert-butyl-dimethyl-silanyl)-5-(tert-butyl-dimethyl-silanyloxy)-1H-indole.

reactant | BuLi | [Li]CCCC
reactant | pentane | 49.2 mmol, 30.7 ml | CCCCC | C5H12
reactant | 5-(tert-butyl-dimethyl-silanyloxy)-1H-indole | 37.8 mmol, 9.36 g | C(C)(C)(C)[Si](OC=1C=C2C=CNC2=CC1)(C)C | C14H21NOSi
reactant | tert-Butyldimethylsilyl chloride | 49.2 mmol, 7.64 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | N-bromosuccinimide | 41.6 mmol, 7.64 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 190 ml | C1CCOC1 | C4H8O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 3-bromo-1-(tert-butyl-dimethyl-silanyl)-5-(tert-butyl-dimethyl-silanyloxy)-1H-indole | 29.2 mmol, 12.87 g, 77% | BrC1=CN(C2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)[Si](C)(C)C(C)(C)C | C20H34BrNOSi2
